US09326987B2
2-(Chloromethyl)-N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-1,3-thiazole-4-carboxamide
1-(Phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-amine (663 mg) in chloroform (10 ml) was stirred at 0° C. DIPEA (0.437 ml) was added into the reaction mixture, then 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride (300 mg) in chloroform (10 ml) was added. The reaction mixture was stirred at 0° C. for 15 min. 2-(Chloromethyl)-1,3-thiazole-4-carbonyl chloride (400 mg) was added to the reaction mixture and stirring was continued. 2-(Chloromethyl)-1,3-thiazole-4-carbonyl chloride (1.6 g) was added to the reaction mixture which was stirred under nitrogen for 18 h. The solution was treated with DCM (25 ml) and saturated sodium bicarbonate aq (25 ml), and then stirred for 10 min. The organic layer was separated, washed with diluted sodium chloride aq (25 ml) and then passed through a hydrophobic frit. A part of the solvent was removed then the solution was applied to a silica column (Flasmaster II, 100 g silica cartridge) and eluted with a gradient of 0-100% ethylacetate:cyclohexane over 60 min. Fractions containing desired product were combined and the solvent was removed to afford the title compound, 111 mg as a white solid.

reactant | 1-(Phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-amine | 663 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC=2C(=CC(=CC12)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)N | C26H19N5O4S2
reactant | DIPEA | 0.437 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride | 300 mg | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | 2-(Chloromethyl)-1,3-thiazole-4-carbonyl chloride | 400 mg | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | 2-(Chloromethyl)-1,3-thiazole-4-carbonyl chloride | 1.6 g | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(Chloromethyl)-N-{1-(phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-1,3-thiazole-4-carboxamide | ClCC=1SC=C(N1)C(=O)NC1=C2C=NN(C2=CC(=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)S(=O)(=O)C2=CC=CC=C2 | C31H21ClN6O5S3
